US06562827B1
3.0 g of intermediate compound 8a were reacted in 70 ml of DMF with 2.9 g of N-(2-methoxybenzyl)piperazine analogously to Example 8b in the presence of 5.7 g of potassium carbonate and a spatula tipful of 18-crown-6, 1.3 g (27%) of the product being obtained.

reactant | N-(2-methoxybenzyl)piperazine | 2.9 g | COC1=C(CN2CCNCC2)C=CC=C1 | C12H18N2O
reactant | potassium carbonate | 5.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
